US05576340
2-{2-[4-(2-Methoxycarbonyl-2-hydroxyethyl)phenoxy]1-methylethyl}amino-1-(3-chlorophenyl)ethanol (Compound No. 6-2)
A mixture of 1.16 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 1.71 g of methyl 3-[4-(2-oxopropoxy)phenyl]lactate (prepared as described in Preparation 6) and 40 ml of benzene was heated under reflux for 3.5 hours, whilst the water being formed during the reaction was continuously removed. After completion of the reaction, the benzene used in the reaction was removed by distillation under reduced pressure, and the residue was dissolved in 50 ml of absolute methanol. 2.04 g of sodium cyanoborohydride were added, whilst ice-cooling, to the solution, and the resulting mixture was allowed to react overnight at room temperature. At the end of this time, methanol was removed by distillation under reduced pressure, and the resulting residue was mixed with ethyl acetate and with an aqueous solution of sodium chloride. The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent, to give 1.9 g of the title compound having an Rf=0.30 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 1.16 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 3-[4-(2-oxopropoxy)phenyl]lactate | 1.71 g | O=C(COC1=CC=C(C=C1)CC(C(=O)OC)O)C | C13H16O5
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-{2-[4-(2-Methoxycarbonyl-2-hydroxyethyl)phenoxy]1-methylethyl}amino-1-(3-chlorophenyl)ethanol | 1.9 g | COC(=O)C(CC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1)O | C21H26ClNO5
